Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, cough, SOB
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ ___ with past medical
history of atrial fibrillation, HLD who presents with ___ days 
of
productive cough, fever to 101 and body aches. He arrived to
urgent care rigoring with oxygen saturation to 82% on room air
improving with nasal cannula. He was given nebulizer treatment
given diffuse wheezing. Chest x-ray revealing likely pneumonia.
Patient ordered for ceftriaxone and  azithromycin. Flu test was
negative. Patient transferred to  ___ emergency department for
further care.

He denies chest pain, extremity weakness or paresthesia,
headache, neck pain.

 
Past Medical History:
HYPERLIPIDEMIA                                                  
PALPITATIONS                                                    
SLEEP APNEA                                                     
ASTHMA                                                          
COLONIC ADENOMA
ATRIAL FIBRILLATION
 
Social History:
___
Family History:
Father                
- ATRIAL FIBRILLATION                       
- PROSTATE CANCER   
 
Physical Exam:
Admission Physical Exam
=====================================
VITALS:  ___ 2356 Temp: 98.5 PO BP: 115/71 R HR: 76 RR: 18
O2 sat: 91% O2 delivery: Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Scattered rhonchi and end-expiratory wheezes.  
Abdomen: Normoaactive bowel sounds. Soft, non-tender,
non-distended, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 
Trace
peripheral edema ___ b/l ___.   
Skin: Skin type III. Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact. A&Ox3. No gross focal deficits. 

Discharge Physical Exam
=====================================
Vitals: Temp 98.5 BP 117/69 HR 70 RR 16 O2sat 93 RA
General: NAD
Neck: No lymphadenopathy
Lungs: Diffuse expiratory wheezing w/ rhonchi; no crackles; 
decreased air movement
CV: RRR, no MRG
GI: Soft, nondistended, no TTP diffusely
Ext: No edema, erythema, TTP of ___: PERRL, EOMI
 
Pertinent Results:
ADMISSION LABS
=================
___ 05:20PM   WBC-12.5* RBC-5.07 HGB-16.1 HCT-46.7 MCV-92 
MCH-31.8 MCHC-34.5 RDW-12.5 RDWSD-42.0
___ 05:20PM   NEUTS-66.8 ___ MONOS-11.1 EOS-2.3 
BASOS-0.2 IM ___ AbsNeut-8.31* AbsLymp-2.40 AbsMono-1.38* 
AbsEos-0.29 AbsBaso-0.03
___ 05:20PM   PLT COUNT-256
___ 05:05PM OTHER BODY FLUID  FLU A PCR-NEG FLU B PCR-NEG
___ 05:20PM   GLUCOSE-141* UREA N-14 CREAT-1.0 SODIUM-144 
POTASSIUM-3.9 CHLORIDE-98 TOTAL CO2-28 ANION GAP-18

DISCHARGE LABS
====================
___ 07:05AM BLOOD WBC-8.7 RBC-4.20* Hgb-13.1* Hct-38.6* 
MCV-92 MCH-31.2 MCHC-33.9 RDW-12.6 RDWSD-41.7 Plt ___
___ 07:05AM BLOOD Glucose-114* UreaN-17 Creat-0.8 Na-142 
K-3.6 Cl-102 HCO3-25 AnGap-15
___ 07:05AM BLOOD ALT-30 AST-19 LD(LDH)-234 AlkPhos-51 
TotBili-0.4

MICROBIOLOGY
=================
___ 6:29 am URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.

___ 12:53 am SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 

Test                          Result              Reference 
Range/Units
S. PNEUMONIAE ANTIGENS,       Not Detected        Not Detected
URINE             

IMAGING
==============
CXR IMPRESSION:  
Patchy right upper lobe consolidation compatible with pneumonia 
___ the proper clinical setting.  Follow-up after treatment is 
suggested to document resolution. 

 
Brief Hospital Course:
Brief Hospital Course
=========================================
___ w/ hx of HLD, OSA, afib, and mediastinal lymphadenopathy 
presenting with 3 days of increasing cough, fevers, and SOB, 
discovered to have PNA on CXR, hypoxia and treated with CTX + 
Azithro.

#Community Acquired Pneumonia:
#Hypoxemic respiratory failure: 
Patient presented with several days of cough, fevers, malaise at 
home. Patient was diagnosed with CAP due to clinical signs and 
symptoms as well as a CXR demonstrating a RUL consolidation. At 
urgent care, he was noted to be hypoxic to 82% on room air, 
prompting referral to ___ and admission. Patient was started 
on IV CTX + Azithromycin which was then switched to PO Levaquin 
x5 days given the sputum Gram stain demonstrating GPCs and GNRs. 
Patient remained afebrile and his WBC decreased after initiation 
of antibiotics, and he was weaned to room air. Ambulatory O2 sat 
___ the afternoon was 94% on room air. Patient discharged on oral 
levofloxacin 750mg PO Q24H to complete 5 day course (D1 = 
___. 

#Headache: Patient noted a headache that had begun after 
admission. Given the dull, gradual onset, holosystolic nature of 
the headache without associated symptoms, headache is most 
likely related to his current infection as above. Improved with 
PRN acetaminophen and ibuprofen. 

#ETOH Use: Patient noted that he drank ___ drinks per day. No 
signs of ETOH withdrawal. 

Transitional Issues
=========================================
[ ] Complete 5-day course of antibiotics for CAP treatment (D1 = 
___ - D5 = ___. Discharged on levofloxacin 750mg PO 
Q24H. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diazepam 10 mg PO QHS 
2. Metoprolol Succinate XL 25 mg PO QPM 
3. Docusate Sodium 100 mg PO BID 
4. Simvastatin 40 mg PO QPM 
5. Cetirizine 10 mg PO DAILY 
6. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN SOB or 
wheezing 
7. Benzonatate 200 mg PO TID:PRN cough 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 
2.  albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN SOB or 
wheezing  
3.  Benzonatate 200 mg PO TID:PRN cough  
4.  Cetirizine 10 mg PO DAILY  
5.  Diazepam 10 mg PO QHS  
6.  Docusate Sodium 100 mg PO BID  
7.  Metoprolol Succinate XL 25 mg PO QPM  
8.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community-acquired pneumonia
Hypoxemic respiratory failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================
DISCHARGE INSTRUCTIONS
======================
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I ___ THE HOSPITAL?
- You were ___ the hospital for trouble breathing and your oxygen 
levels were low. Your chest x-ray showed a pneumonia (lung 
infection). 

WHAT HAPPENED TO ME ___ THE HOSPITAL?
- We treated you with antibiotics and you felt better. 
- Your oxygen levels improved after IV antibiotics, and you were 
ready to go home. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- Please take your first dose of your antibiotic, levofloxacin, 
tonight (___), and take until gone. 

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___